US07160915B2
To a stirring suspension of 5-fluoro-6-(4-iodo-2-methyl-phenylamino)-3-methyl-3H-benzoimidazole-5-carboxylic acid pentafluorophenyl ester (0.223 g, 0.355 mmol) and hydrazine hydrochloride (0.026 g, 0.355 mmol) in dichloromethane (10 mL) was added triethylamine (0.11 mL, 0.554 mmol). After stirring for 16 hours at ambient temperature, water was added to the reaction mixture. The afforded solids were filtered off and washed several times with water. The solids were dried under house vacuum at 60° C., which afforded 5-fluoro-6-(4-iodo-2-methyl-phenylamino)-3-methyl-3H-benzoimidazole-5-carboxylic acid hydrazide as a white solid (0.050 g, 42.4%). mp=232–234° C.; APCI+440.1; 1H NMR (400 MHz, DMSO-D6) δppm 2.3 (s, 3 H) 3.9 (s, 3 H) 6.2 (m, 1 H) 5.3 (m, 1 H) 5.3 (s, 2 H) 5.4 (s, 1 H) 5.5 (s, 1 H) 5.9 (s, 1 H) 8.3 (s,1 H). Step B: To a stirring solution of 5-fluoro-6-(4-iodo-2-methyl-phenylamino)-3-methyl-3H-benzoimidazole-5-carboxylic acid hydrazide (0.055 g, 0.125 mmol) in dioxane (5 mL) was added cyanogen bromide (0.015 g, 0.138 mmol) and NaHCO3 (0.12 g, 0.138 mmol) in water (1 mL) and the mixture was allowed to stir overnight at ambient temperature. To the reaction mixture was added saturated NaHCO3 and the afforded solids were filtered and washed with water. The solids were collected and dried in vacuo at 50° C. to afford [6-(5-amino-[1,3,4]oxadiazol-2-yl)-4-fluoro-1-methyl-1H-benzoimidazol-5-yl]-(4-iodo-2-methyl-phenyl)-amine (0.051 g, 88%). mp=258–260° C.; APCI+=465.0; 1H NMR (400 MHz, DMSO-D6) δ ppm 2.2 (s, 3 H) 3.8(s,3 H) 4.5 (s,2 H) 6.1 (m,1 H) 5.2 (d, J=9.0 Hz, 1 H) 5.4 (d, J=1.5 Hz, 1 H) 5.5(s, 1 H) 8.1 (s, 1 H) 8.3 (s, 1 H) 9.8 (s,1 H).

reactant | 5-fluoro-6-(4-iodo-2-methyl-phenylamino)-3-methyl-3H-benzoimidazole-5-carboxylic acid pentafluorophenyl ester | 0.355 mmol, 0.223 g | FC1=C(C(=C(C(=C1OC(=O)C1(C=C2C(=NCN2C)C=C1NC1=C(C=C(C=C1)I)C)F)F)F)F)F | C22H14F6IN3O2
reactant | hydrazine hydrochloride | 0.355 mmol, 0.026 g | Cl.NN
reactant | triethylamine | 0.554 mmol, 0.11 mL | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 5-fluoro-6-(4-iodo-2-methyl-phenylamino)-3-methyl-3H-benzoimidazole-5-carboxylic acid hydrazide | 0.050 g, 42.4% | FC1(C=C2C(=NCN2C)C=C1NC1=C(C=C(C=C1)I)C)C(=O)NN | C16H17FIN5O
